US04001238
5-methylthio-1,3,4-oxadiazole-2-carbonyl chloride
A solution of oxalyl chloride (2.57 ml., 0.03 mole) in benzene (15 ml.) was added dropwise to a refluxing suspension of potassium 5-methylthio-1,3,4-oxadiazole-5-carboxylate (3.96 g., 0.02 mole) in benzene (50 ml.). After the addition, the mixture was stirred at reflux for one hour. Filtration and evaporation left the acid chloride; distillation gave 1.86 g. (52%); B.P. 65°-69° C. at 0.05 mm. of mercury.

reactant | oxalyl chloride | 0.03 mole, 2.57 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | potassium 5-methylthio-1,3,4-oxadiazole-5-carboxylate | 0.02 mole, 3.96 g | CSC1(N=NCO1)C(=O)[O-].[K+]
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
catalyst | mercury | [Hg] | Hg
product | 5-methylthio-1,3,4-oxadiazole-2-carbonyl chloride | CSC1=NN=C(O1)C(=O)Cl | C4H3ClN2O2S
